US04912104
To a solution of 1,3-diethylbarbituric acid (61 g) in phosphorus oxychloride (224 ml) was added dimethylformamide (35 ml) with stirring at room temperature and then the reaction solution was refluxed for 3.5 hr. The solution was concentrated to dryness to give an oil. The oil was poured into ice-water to give crystals, 6-chloro-1,3-diethyl-5-formyluracil (64 g), m.p. 88°-89° C.

reactant | 1,3-diethylbarbituric acid | 61 g | C(C)N1C(=O)N(C(=O)CC1=O)CC | C8H12N2O3
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 224 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-1,3-diethyl-5-formyluracil | 64 g | ClC1=C(C(N(C(N1CC)=O)CC)=O)C=O | C9H11ClN2O3
